US07001904B1
N-(2-aminoethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine
A mixture of N-(2-tert-butoxycarbonylaminoethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine (0.31 g), trifluoroacetic acid (1 ml) and methylene chloride (1 ml), was stirred at ambient temperature for 20 minutes. The reaction mixture was evaporated and the residue was dissolved in water (4 ml) and the solution was basified to pH10 by the addition of 10N aqueous potassium hydroxide solution. The mixture was extracted with a 19:1 mixture of methylene chloride and methanol. The organic extract was dried over magnesium sulphate and evaporated. There was thus obtained the title compound (0.16 g); NMR Spectrum: (DMSOd6) 1.2–1.4 (m, 2H), 1.65–1.94 (m, 5H),2.12 (s, 3H), 2.21 (s, 6H), 2.7–2.9 (m, 4H), 3.22 (br s, 3H), 3.4–3.8 (m, 4H), 3.91 (d, 2H), 7.0 (s, 1H), 7.13 (s, 3H), 8.4 (s, 1H); Mass Spectrum: M+H+ 492.

reactant | N-(2-tert-butoxycarbonylaminoethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine | 0.31 g | C(C)(C)(C)OC(=O)NCCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)NC1=C(C=CC=C1C)C | C32H45N7O4
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | N-(2-aminoethyl)-N′-(2,6-dimethylphenyl)-N″-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]guanidine | 0.16 g | NCCNC(=NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C)NC1=C(C=CC=C1C)C | C27H37N7O2
